US06384041B1
To a suspension of 79 mg (3.30 mmol) of sodium hydride in 2 mL of benzene was added 225 mg (2.75 mmol) of methyl glycolate and a solution of 320 mg (0.91 mmol) of 2-(methylthio)-4-chloro-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidine in 2 ml of benzene. The mixture was then heated at 60° C. After 24 hours the reaction was cooled to ambient temperature and an additional 40 mg of sodium hydride and 110 mg of methyl glycolate were added. After 3 days, the reaction was partitioned by the addition of 2 mL of 2 M sodium hydrogen sulfate and 20 mL of ethyl acetate. The organic phase was washed with 10 mL of water, dried with sodium sulfate and concentrated. The product was purified by flash chromatography (30 g silica, methylene chloride-heptane gradient 2:1 to 100:0) to provide 200 mg (54%) of [[2-(methylthio)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a white solid. nmr (500 MHz, CDCl3) δ1.26 (t, J=7.4 Hz, 3H), 2.53 (s, 3H), 2.56 (q, J=7.4 Hz, 2H), 3.79 (s, 3H), 5.05 (s, 2H), 5.35 (s, 2H), 6.31 (s, 1H), 6.92 (d, J=6.7 Hz, 1H), 7.08 (s, 1H), 7.21 (m, 2H)

reactant | sodium hydride | 3.30 mmol, 79 mg | [H-].[Na+]
reactant | methyl glycolate | 2.75 mmol, 225 mg | C(CO)(=O)OC | C3H6O3
reactant | 2-(methylthio)-4-chloro-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.91 mmol, 320 mg | CSC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=CC(=CC=C2)Cl)Cl | C16H15Cl2N3S
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | methyl glycolate | 110 mg | C(CO)(=O)OC | C3H6O3
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | [[2-(methylthio)-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 200 mg, 54% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC(=CC=C2)Cl)=O | C19H20ClN3O3S
